Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet / codeine
 
Attending: ___.
 
Chief Complaint:
Leg pain, weakness 
 
Major Surgical or Invasive Procedure:
Knee arthrocentesis

 
History of Present Illness:
This is a ___ year old man with no significant PMHx who presented 
with leg pain & weakness.

He was in his usual state of health until ___, when he 
presented to the ED with right groin pain that has been going on 
intermittently for years. An ultrasound demonstrated no hernia, 
with a morphologically normal LN at the site of tenderness.

The patient then followed up with his PCP when he was noticed to 
have hypopigmented spots on the dorsal aspect of his hands. This 
was presumed to be tinea, and treated with antifungal. 

Within a week, the developed atraumatic right sided knee pain 
and
swelling. He tried knee brace with no improvement. He then
returned to our ED, where he was offered a knee immobilizer. He
was recommended to see a Sports Medicine specialist, but he did 
not go.

For about 10 days prior, the patient had been experiencing 
worsening bilateral upper thigh proximal myalgia with no 
radiation down his legs. The has been debilitating and affecting 
his ambulation. The pain then spread to involve his bilateral 
upper arms over the past one week. He also endorsed trouble 
raising his arms as well as standing from a seated position. 

No fever or chills. No headache, change in vision or scalp 
tenderness. Naproxen provides some relief.  No recent tick bite 
that he recalls.

In the ED, initial vitals were: 96.4 | 95 | 139/81 | 18 | 100%. 
- Labs were notable for: WBC 14.9, CRP 85, R knee effusion with 
8251 WBC (51% PMN)/967 RBC
- Ketorolac was given & rheumatology was consulted. 

Upon arrival to the floor, his pain is improved, after receiving 
ketorolac. His knee is not particularly painful at rest, even 
after arthrocentesis. He's very bothered by pain, stiffness & 
subjective weakness of his shoulders, and concerned about being 
able to get off his toilet at home. 

Endorses urinary dribbling, but denies dysuria, penile 
discharge. Notes persistent presence of tender (though 
non-enlarged) R groin lymph node. 

Denies fever, chills, sweats, weight loss. 

Endorses drinking etOH to cope with symptoms. 
 
Past Medical History:
- Alcohol abuse, 6 beers/night, no history of withdrawal
- Tobacco abuse
- Tinea versicolor 
 
Social History:
___
Family History:
no history of autoimmune/rheumatologic disease. Multiple 
malignancies within family. Brother with ___ cell 
carcinoma syndrome.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VITALS - T 98.3 | BP 156/94 | HR 66 | R 18 | SpO2 96%?/RA  
GENERAL - laying in bed, overall comfortable appearing, though 
stiff/painful with movements in bed
EYES - anicteric, gaze conjugate
ENT - moist membranes, no cervical adenopathy 
CARDIOVASC - regular, normal S1/S2, no murmur 
RESPIRATORY - unlabored, lungs clear bilaterally 
GI - obese, soft, non-tender, non-distended, normal bowel sounds 

MUSCULOSKEL - no obvious joint effusions, synovitis. R knee with 
bandage in place after arthrocentesis, though no warmth, 
erythema or particular tenderness to palpation. Full ROM of all 
joints
NEURO - face symmetric, tongue midline, speech fluent, gait not 
assessed, strength ___ in all extremities, though stiffness in 
shoulders limits abduction
PSYCH - pleasant, talkative 
INTEGUMENTARY - slight hypopigmentation on dorsa of bilateral 
hands, no other rashes

 
Pertinent Results:
ADMISSION LABS
___ 10:00AM BLOOD WBC-14.9* RBC-4.93 Hgb-15.1 Hct-43.9 
MCV-89 MCH-30.6 MCHC-34.4 RDW-12.3 RDWSD-40.1 Plt ___
___ 10:00AM BLOOD Neuts-82.1* Lymphs-10.1* Monos-6.6 
Eos-0.8* Baso-0.1 Im ___ AbsNeut-12.20* AbsLymp-1.51 
AbsMono-0.98* AbsEos-0.12 AbsBaso-0.02
___ 10:00AM BLOOD Glucose-103* UreaN-14 Creat-0.8 Na-139 
Cl-101 HCO3-25 AnGap-13
___ 10:00AM BLOOD ALT-18 AST-23 CK(CPK)-112 AlkPhos-90 
TotBili-1.2
___ 10:00AM BLOOD Albumin-4.0
___ 10:00AM BLOOD CRP-85.0*

___ 05:15PM JOINT FLUID TNC-8251* RBC-967 Polys-51* 
___ ___ 05:15PM JOINT FLUID Crystal-NONE

IMAGING
___ CXR -- 

MICROBIOLOGY
None

OTHER RELEVANT LABS/STUDIES

DISCHARGE LABS
 
Brief Hospital Course:
This is a ___ year old man with no significant PMHx who presented 
with leg pain & weakness.

ACTIVE ISSUES
# MYALGIAS
# R KNEE PAIN 
# BILATERAL SHOULDER STIFFNESS - overall, diagnosis at this 
point is unclear. CK is normal, making myositis unlikely. The 
leukocytosis & elevated CRP, also raise spectre for infectious 
etiology. Would consider gonorrhea, given possible migration of 
arthritides, though has not been recently sexually active & no 
rash. It's unclear how the tender R groin lymph node is 
involved. He notes a kitten at home, so one could consider 
Bartonella infection, though this is also unlikely. PMR would 
certainly seem to fit with his description of stiffness & 
elevated CRP, though he is only ___ years old -- this is always a 
diagnosis of exclusion, however. Lyme, as well as mononuclear 
viral illnesses are included on the differential. 
- Appreciate Rheumatology recommendations
- Check SPEP, ESR, HIV (verbal consent obtained), EBV, CMV, 
parvovirus serologies, as recommended by rheumatology
- Will also check urine for UPEP, and urine GC/CT NAAT, given 
possible history of polymigratory arthritis
- Will also check B. henselae serologies, given history of cat 
at home (and scratches), as well as known musculoskeletal 
manifestations of Cat Scratch disease 
- Follow up Lyme serologies 
- Ketorolac while here for analgesia, though would try 
transitioning to celecoxib tomorrow in anticipation of discharge 
home (had failed naproxen at home) - ___ need to combine 
celecoxib with APAP, but would be extremely reluctant to give 
patient narcotics, given history of drug & alcohol use (this 
discussed with patient & was in agreement)  
- If above work up returns normal, would consider trial 
steroids, as PMR remains on the differential 

# LEUKOCYTOSIS - overall, patient appears rather well. It's 
unclear what this represents, infection vs. inflammatory 
condition. Notably, CRP has risen from 30 to 85, since ER visit 
(___) to presentation today. 
- Check CXR & UA to rule out concomitant infection
- No antibiotics indicated at this point
- Trend CBC 

CHRONIC ISSUES
# TOBACCO USE
# ALCOHOL ABUSE - no prior history of alcohol withdrawal, though 
does report drinking 6 beers/day (& 12/day on weekends). 
- 45 minutes spent of face-to-face time on counseling regarding 
cessation of tobacco & alcohol. 
- Monitor for withdrawal; diazepam 10 mg PO PRN CIWA >10

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ketoconazole Shampoo 1 Appl TP ASDIR 
2. Selenium Sulfide 10 mL TP DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Three times a day 
as needed Disp #*60 Tablet Refills:*0 
2.  Celecoxib 200 mg oral BID:PRN pain Duration: 1 Month 
Please re-assess the ongoing need for this medication at your 
outpatient appointment. 
RX *celecoxib [Celebrex] 200 mg 1 capsule(s) by mouth twice 
daily as needed Disp #*60 Capsule Refills:*0 
3.  Doxycycline Hyclate 100 mg PO Q12H Duration: 20 Days 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice daily 
Disp #*40 Tablet Refills:*0 
4.  Ketoconazole Shampoo 1 Appl TP ASDIR  
5.  Selenium Sulfide 10 mL TP DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lyme arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital with knee pain, other joint 
pain and weakness. We evaluated you for etiologies of the pain 
and treated your pain with an IV anti-inflammatory medication. 
Your pain improved by the morning. Our leading diagnosis is Lyme 
arthritis and you should continue the course of doxycycline for 
21 days. You should also follow up with your outpatient 
appointments for further evaluation. We will call you with the 
results of the MRI. If there are any findings on the MRI 
requiring further treatment, they can be arranged through your 
PCP.

It was a pleasure taking care of you!

Sincerely,
Your ___ team
 
Followup Instructions:
___